US08008250B2
a) (R)-2-Methyl-succinic acid 1-tert-butylester 4-methyl ester
To a solution of 1.46 g (10 mmol) of (R)-2-methyl-succinic acid 4-methyl ester and 4.5 g (20 mmol) of (BOC)2O in 20 ml of tBuOH are added 367 mg (3 mmol) of DMAP. The mixture is stirred for 1 h at rt, the solvent is removed under reduced pressure, and the residue is taken up in 50 ml of DCM. The mixture is extracted with 0.5 M HCl (3×30 ml), dried over sodium sulfate and concentrated to give the product in the form of a colorless oil.

reactant | (R)-2-methyl-succinic acid 4-methyl ester | 10 mmol, 1.46 g | COC(C[C@H](C(=O)O)C)=O | C6H10O4
reactant | (BOC)2O | 20 mmol, 4.5 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | tBuOH | 20 ml | CC(C)(C)O | C4H10O
catalyst | DMAP | 3 mmol, 367 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (R)-2-Methyl-succinic acid 1-tert-butylester 4-methyl ester | COC(C[C@H](C(=O)OC(C)(C)C)C)=O | C10H18O4
